US04710507
t-Butyl lithium (7.7 cm3 of a 2.6M solution in pentane) was added dropwise over 5 minutes to a stirred solution of 3-bromopyridine (1.44 cm3) in THF (25 cm3) at -100° under nitrogen. After stirring for 10 minutes a solution of anhydrous zinc chloride (2.05 g) in THF (20 cm3) was added slowly and the mixture was allowed to warm to room temperature over 1 hour. A solution of 2-methoxy-6-bromoquinoline (2.38 g) and tetrakis-(triphenylphosphine)palladium(O) (0.08 g) in THF (10 cm3) was added and the mixture was heated under reflux for 9 hours. Ammonium chloride solution (20 cm3) was then added, the mixture was concentrated in vacuo, and the aqueous phase extracted with chloroform (3×50 cm3). The dried (MgSO4) extracts were evaporated in vacuo to give a solid which was chromatographed on silica (Merck "MK. 60.9385") eluting with ethyl acetate:hexane, 1:1, to afford a residue which was recrystallised from petroleum ether (b.p. 60°-80°)-ether to afford 2-methoxy-6-(3-pyridyl)quinoline, m.p. 89°-91°, (0.35 g).

reactant | t-Butyl lithium | C(C)(C)(C)[Li]
reactant | 3-bromopyridine | 1.44 cm3 | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-methoxy-6-bromoquinoline | 2.38 g | COC1=NC2=CC=C(C=C2C=C1)Br | C10H8BrNO
reactant | Ammonium chloride | 20 cm3 | [Cl-].[NH4+]
solvent | pentane | CCCCC | C5H12
solvent | THF | 25 cm3 | C1CCOC1 | C4H8O
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
catalyst | zinc chloride | 2.05 g | [Cl-].[Zn+2].[Cl-]
product | 2-methoxy-6-(3-pyridyl)quinoline | COC1=NC2=CC=C(C=C2C=C1)C=1C=NC=CC1 | C15H12N2O
